US08426442B2
i) 6-Benzylamino-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
To a stirred solution of 6-amino-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (350 mg, 1.41 mmol) in dichloromethane (15 ml) was added benzaldehyde (143 μl, 1.41 mmol), acetic acid (81 μl, 1.41 mmol) followed by sodium triacetoxyborohydride (418 mg, 1.97 mmol) and the reaction was stirred at room temperature for 16 hrs. The reaction mixture was quenched by cooling in ice batch and neutralising with aqueous sodium hydroxide 2M. The aqueous mixture was extracted using dichloromethane (3×50 ml) and the organics were combined, dried over sodium sulfate and then concentrated in vacuo. The crude residue was purified by column chromatography (1% methanol in dichloromethane) to afford the title compound as cream solid (320 mg, 67% yield). HPLC retention time 4.98 min. Mass spectrum (ES+) m/z 339 (M+H).

reactant | 6-amino-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 1.41 mmol, 350 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)N | C14H20N2O2
reactant | benzaldehyde | 1.41 mmol, 143 μl | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 1.41 mmol, 81 μl | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.97 mmol, 418 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 6-Benzylamino-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 320 mg, 67% yield | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)NCC1=CC=CC=C1 | C21H26N2O2
